US04000295
4-tert-BUTYLAMINO-5,7-DINITRO-2-TRIFLUOROMETHYLBENZIMIDAZOLE
4-Chloro-5,7-dinitro-2-trifluoromethylbenzimidazole (5.0 grams) was mixed with 1.6 grams of triethylamine and 1.2 grams of tert-butylamine in a small amount of ethanol. The resulting reaction mixture was refluxed over a weekend, then poured into water and the resulting aqueous mixture acidified and filtered to separate the expected 4-tert-butylamino-5,7-dinitro-2-trifluoromethylbenzimidazole product. It was recrystallized from ethanol as an orange solid, m.p., 195°-97° C. Elemental analysis confirmed the identity of the product. A second crop melted at 177°-88° C.

reactant | 4-Chloro-5,7-dinitro-2-trifluoromethylbenzimidazole | 5.0 grams | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C8H2ClF3N4O4
reactant | triethylamine | 1.6 grams | C(C)N(CC)CC | C6H15N
reactant | tert-butylamine | 1.2 grams | C(C)(C)(C)N | C4H11N
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-tert-BUTYLAMINO-5,7-DINITRO-2-TRIFLUOROMETHYLBENZIMIDAZOLE | C(C)(C)(C)NC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C12H12F3N5O4
